US04017629
23.0 g of aminocrotonic acid methyl ester and 40.8 g of methylsulphonylacetone are added to 30.2 g of o-nitrobenzaldehyde dissolved in 200 ml of hexamethylphosphoric acid triamide. The mixture is then stirred for 3 hours at a bath temperature of 90°-100° C. The mixture is cooled and dissolved in 1,000 ml of ethyl acetate and the solution is washed with 400 ml of half-saturated sodium chloride solution, with twice 200 ml of 2 N sodium carbonate solution and with twice 500 ml of water. The ethyl acetate solution is dried with sodium carbonate and evaporated. Crystallisation of the residue from ethyl acetate/ether gives 2,6-dimethyl-3-carbomethoxy-5-methylsulphonyl- 4-(2-nitrophenyl)- 1,4-dihydropyridine of melting point 211°-212° C.

reactant | aminocrotonic acid methyl ester | 23.0 g | COC(\C(=C\C)\N)=O | C5H9NO2
reactant | methylsulphonylacetone | 40.8 g | CS(=O)(=O)CC(C)=O | C4H8O3S
reactant | o-nitrobenzaldehyde | 30.2 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | hexamethylphosphoric acid triamide | 200 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | ethyl acetate | 1,000 ml | C(C)(=O)OCC | C4H8O2
product | 2,6-dimethyl-3-carbomethoxy-5-methylsulphonyl- 4-(2-nitrophenyl)- 1,4-dihydropyridine | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-])S(=O)(=O)C)C | C16H18N2O6S
